US04725592
(a) Production of 1-(3-methylbutyryloxy)-2-methylpropyl 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate dihydrochloride
To 60 ml of dimethylformamide solution containing 4.22 g of 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylic acid dihydrochloride is added 1.67 g of potassium acetate. The mixture is cooled to 0° C. With stirring, 5.0 g of 1-iodo-2-methylpropyl 3-methylbutyrate is added dropwise to the solution, followed by stirring at 0° C. for 5 minutes. The reaction mixture is poured into a mixture of 60 ml of methylene chloride and 60 ml of 0.1N-HCl and the aqueous layer is separated. The aqueous solution is adjusted to pH 6.0 with a saturated aqueous sodium bicarbonate solution and extracted with methylene chloride. To the methylene chloride solution is added water and the mixture is adjusted to pH 2.0 with 4N-HCl. The aqueous layer is separated and lyophilized to obtain 3.0 g of the title compound.

reactant | 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylic acid dihydrochloride | 4.22 g | Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)O)C1=O
reactant | potassium acetate | 1.67 g | C(C)(=O)[O-].[K+]
reactant | 1-iodo-2-methylpropyl 3-methylbutyrate | 5.0 g | CC(CC(=O)OC(C(C)C)I)C | C9H17IO2
reactant | HCl | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(3-methylbutyryloxy)-2-methylpropyl 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate dihydrochloride | 3.0 g | Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)OC(C(C)C)OC(CC(C)C)=O)C1=O | InChI=1S/C22H35N7O5S2.2ClH/c1-12(2)9-15(30)33-21(13(3)4)34-20(32)17-14(10-35-19-16(23)18(31)29(17)19)11-36-22-24-25-26-28(22)8-7-27(5)6;;/h12-13,16,19,21H,7-11,23H2,1-6H3;2*1H/t16-,19-,21?;;/m1../s1
